US08865682B2
Preparation of methyl 4-[(5E)-5-(5,6-difluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzoate
To 10 mL of 1,4-dioxane, was added the following reagents: (3E)-3-(4-bromo-5,5-dimethylfuran-2(5H)-ylidene)-5,6-difluoro-1,3-dihydro-2H-indol-2-one (250 mg, 0.73 mmol), 4-methoxycarbonylphenylboronic acid (158 mg, 0.88 mmol), PdCl2(PPh3)2 (25 mg, 0.036 mmol), 2M Na2CO3 aqueous solution (1.5 mL, 3.0 mmol). The mixture was heated at 86° C. under N2 for 2 hours, cooled to room temperature and poured into 100 mL of water. The brown precipitates were filtered, washed with water and dried to give the crude product. Purification through silica gel column with 1-2% MeOH/CHCl3 led to methyl 4-[(5E)-5-(5,6-difluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzoate as orange/red solid. Yield: 112 mg, 39%.

reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
reactant | (3E)-3-(4-bromo-5,5-dimethylfuran-2(5H)-ylidene)-5,6-difluoro-1,3-dihydro-2H-indol-2-one | 0.73 mmol, 250 mg | BrC1=C/C(/OC1(C)C)=C/1\C(NC2=CC(=C(C=C12)F)F)=O | C14H10BrF2NO2
reactant | 4-methoxycarbonylphenylboronic acid | 0.88 mmol, 158 mg | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | Na2CO3 | 3.0 mmol, 2M, 1.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | PdCl2(PPh3)2 | 0.036 mmol, 25 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 100 mL | O | H2O
product | methyl 4-[(5E)-5-(5,6-difluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]benzoate | FC=1C=C2/C(/C(NC2=CC1F)=O)=C\1/C=C(C(O1)(C)C)C1=CC=C(C(=O)OC)C=C1 | C22H17F2NO4
